US06797731B2
Benzyl [4-(2,4-dihydroxyphenyl)cyclohexylidene]acetate
To a round bottomed flask equipped with magnetic stirrer was added benzyl [4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexylidene]acetate (232 mg), tetrahydrofuran (5 ml), tetrabutylammonium fluoride hydrate (429 mg) and glacial acetic acid (94 μl). After stirring at room temperature for 0.5 hr, the solvent was removed in vacuo and the residue partitioned between ethyl acetate (100 ml) and water (20 ml). The layers were separated and the aqueous phase was extracted with ethyl acetate (50 ml). The combined organic phases were washed with water (50 ml), brine (20 ml), dried over magnesium sulfate, filtered and concentrated in vacuo. Purification via flash chromatography (SiO2, ethyl acetate/petroleum ether, 1:3 v/v) furnished the title compound (100 mg, 72%) as a cream solid. δH (CD3OD): 1.59-1.67 (2H, m), 1.98-2.13 (4H, m), 2.37-2.48 (2H, m), 3.14 (1H, ft), 5.16 (2H, s), 5.75 (1H, s), 6.26 (1H, dd), 6.30 (1H, d), 6.89 (1H, d), 7.30-7.44 (5H, m); m/z (ES+) 337 (M−H)−.

reactant | benzyl [4-(2,4-bis{[tert-butyl(dimethyl)silyl]oxy}phenyl)cyclohexylidene]acetate | 232 mg | [Si](C)(C)(C(C)(C)C)OC1=C(C=CC(=C1)O[Si](C)(C)C(C)(C)C)C1CCC(CC1)=CC(=O)OCC1=CC=CC=C1 | C33H50O4Si2
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | tetrabutylammonium fluoride hydrate | 429 mg | O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetic acid | 94 μl | C(C)(=O)O | C2H4O2
product | Benzyl [4-(2,4-dihydroxyphenyl)cyclohexylidene]acetate | 100 mg, 72% | OC1=C(C=CC(=C1)O)C1CCC(CC1)=CC(=O)OCC1=CC=CC=C1 | C21H22O4
